US07115750B1
6-Amino-3,4-dihydro-1-(2H)-naphthalenone
Concentrated hydrochloric acid (250 ml) was added to 6-acetamido-1-tetralone (20.0 g, 98.4 mmol), which was stirred at 100° C. for 1 hour. The solvent was distilled out under reduced pressure. Ethyl acetate was added to the residue, which was washed with aqueous potassium carbonate solution and saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate, and then the solvent was distilled out under reduced pressure. The residue was powdered with ethyl acetate and isopropyl ether, to give the titled compound (14.5 g).

reactant | 6-acetamido-1-tetralone | 98.4 mmol, 20.0 g | C(C)(=O)NC=1C=C2CCCC(C2=CC1)=O | C12H13NO2
solvent | hydrochloric acid | 250 ml | Cl | ClH
product | 6-Amino-3,4-dihydro-1-(2H)-naphthalenone | 14.5 g | NC=1C=C2CCCC(C2=CC1)=O | C10H11NO
